US04835284
97% sodium hydroxide 8.2 g was added and dissolved in a mixture of methanol 60 ml and water 20 ml. 2-nitro-4-chloro-2'-hydroxy-3'-t-butyl-5'-methylazobenzene 11.6 g was then added to the resultant solution at 50° to 60° C. over 30 minutes while stirring, and thereafter 2,3-dichloro-1,4-naphthoquinone 0.3 g and 9-fluorenone 0.4 g were added to the solution. Glucose 4 g was then added to the resultant mixture at 40° to 50° C. over two hours, and the mixture was stirred for one hour at the same temperature. As this result, almost all of the azobenzene disappeared to produce 2-(2'-hydroxy-3'-t-butyl-5'-methylphenyl)-5-chlorobenzotriazole-N-oxide.

reactant | sodium hydroxide | 8.2 g | [OH-].[Na+]
reactant | 2-nitro-4-chloro-2'-hydroxy-3'-t-butyl-5'-methylazobenzene | 11.6 g | [N+](=O)([O-])C1=C(C=CC(=C1)Cl)N=NC1=C(C(=CC(=C1)C)C(C)(C)C)O | C17H18ClN3O3
reactant | 2,3-dichloro-1,4-naphthoquinone | 0.3 g | ClC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H4Cl2O2
reactant | 9-fluorenone | 0.4 g | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
reactant | Glucose | 4 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | azobenzene | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 2-(2'-hydroxy-3'-t-butyl-5'-methylphenyl)-5-chlorobenzotriazole-N-oxide | OC1=C(C=C(C=C1C(C)(C)C)C)N1N=C2C(=[N+]1[O-])C=CC(=C2)Cl | C17H18ClN3O2
